US09315521B2
To a mixture of crude 4-(bromomethyl)-3,5-diethylpyridine (2.07 g, 9.07 mmol) and 6-methyl-2-sulfanylpyrimidin-4-ol (0.838 g, 5.89 mmol) in anhydrous ethanol (50 mL) at 0° C. was added triethylamine (3.21 g, 4.42 mL 31.75 mmol), and the reaction mixture was allowed to stir at room temperature overnight. The solvent was evaporated to provide a crude residue. Ether was added to precipitate the triethylamine hydrobromide salt. The solid was filtered and washed with ether several times. The combined ether layers were evaporated, and the crude residue was purified by Combiflash using 0-10% MeOH in dichloromethane to provide 2-{[(3,5-diethylpyridin-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol as a white solid; 1H NMR (400 MHz, DMSO-d6): δ 1.23 (t, 6H), 1.40 (t, 3H), 2.64 (q, 4H), 4.44 (q, 2H), 8.36 (s, 2H); M+1 290.4.

reactant | 4-(bromomethyl)-3,5-diethylpyridine | 9.07 mmol, 2.07 g | BrCC1=C(C=NC=C1CC)CC | C10H14BrN
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 5.89 mmol, 0.838 g | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 31.75 mmol, 4.42 mL, 3.21 g | C(C)N(CC)CC | C6H15N
reactant | Ether | CCOCC | C4H10O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-{[(3,5-diethylpyridin-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | C(C)C=1C=NC=C(C1CSC1=NC(=CC(=N1)O)C)CC | C15H19N3OS
